US06673784B1
To a solution of 2-amino-4-fluorobenzoic acid (3.00 g, 19.3 mmol) and THF (40 mL) at 0° C. under argon, borane-THF complex (1M THF solution, 77.0 mmol) was added dropwise over 30 min. After complete addition, the reaction was warmed to 23° C. After 4 h, the reaction mixture was added slowly (5 min) to ethanol (77 mL). After 20 min, the reaction was concentrated in vacuo, diluted with sat'd NaHCO3 (100 mL), extracted with ethyl acetate (2×100 mL), washed with brine (1×100 mL), and dried (MgSO4). After concentration in vacuo, the residue was purified by passing through a silica gel pad (1:1 ethyl acetate:hexane). Concentration in vacuo afforded 2.02 g of 2-amino-4-fluorobenzyl alcohol as a yellow solid which was sufficiently pure to take on to the next step: 1H NMR (CDCl3) δ 4.54 (br s), 6.28-6.47 (m), 6.93-7.05 (m); 13C NMR (CDCl3) δ 62.7, 101.9 (J=24 Hz), 103.4 (J=21 Hz), 121.5, 130.1 (J=10 Hz), 149.1, 163 (J=360 Hz). MS (EI) 141 (M+), 124, 110. IR (neat) 3500-3000 cm−1.

reactant | 2-amino-4-fluorobenzoic acid | 19.3 mmol, 3.00 g | NC1=C(C(=O)O)C=CC(=C1)F | C7H6FNO2
reactant | THF | 40 mL | C1CCOC1 | C4H8O
reactant | borane THF | 77.0 mmol, 1M | B.C1CCOC1
solvent | ethanol | 77 mL | C(C)O | C2H6O
product | 2-amino-4-fluorobenzyl alcohol | 2.02 g | NC1=C(CO)C=CC(=C1)F | C7H8FNO
